US07851473B2
(3) 2-(1,2,3-Thiadiazol-5-yl)-1H-isoindol-1,3(2H)-dione
Ethyl (2E)-2-[2-(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)ethylidene]hydrazinecarboxylate (612 mg, 2.22 mmol) was slowly added to thionyl chloride (1.5 ml), and the mixture was stirred for 1 day. Crystals were collected by filtration and washed with ethyl acetate to give 308 mg (59.9%) of the desired product as a solid.

reactant | Ethyl (2E)-2-[2-(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)ethylidene]hydrazinecarboxylate | 2.22 mmol, 612 mg | O=C1N(C(C2=CC=CC=C12)=O)C\C=N\NC(=O)OCC | C13H13N3O4
reactant | thionyl chloride | 1.5 ml | S(=O)(Cl)Cl | Cl2OS
product | 2-(1,2,3-Thiadiazol-5-yl)-1H-isoindol-1,3(2H)-dione | 308 mg, 59.9% | S1N=NC=C1N1C(C2=CC=CC=C2C1=O)=O | C10H5N3O2S
